US04233452
To a stirred suspension of ethyl 3-(4-biphenylylthio)-2-oxopropionate (1.44 g, 0.0048 mole) in isopropanol (24 ml) was added sodium borohydride (0.18 g, 0.0048 mole). After 2 hrs., water (75 ml) and 2 N HCl (0.5 ml) were added. The mixture was extracted with methylene chloride (2×150 ml). The contents of the combined extracts, after drying (Na2SO4) and concentration, were chromatographed on silica gel (120 g) using 1,1,1-trichloroethane as eluting solvent to obtain 0.35 g (24%) of ethyl 3-(4-biphenylylthio)lactate, m.p. 101.5°-102° C.

reactant | ethyl 3-(4-biphenylylthio)-2-oxopropionate | 0.0048 mole, 1.44 g | C1(=CC=C(C=C1)SCC(C(=O)OCC)=O)C1=CC=CC=C1 | C17H16O3S
reactant | sodium borohydride | 0.0048 mole, 0.18 g | [BH4-].[Na+]
reactant | water | 75 ml | O | H2O
reactant | HCl | 2 N, 0.5 ml | Cl | ClH
solvent | isopropanol | 24 ml | C(C)(C)O | C3H8O
product | ethyl 3-(4-biphenylylthio)lactate | 0.35 g, 24% | C1(=CC=C(C=C1)SCC(C(=O)OCC)O)C1=CC=CC=C1 | C17H18O3S
